US08008317B2
To a solution of 4-(1,3-dioxolan-2-yl)benzonitrile (5.0 g, 28.54 mmol) in anhydrous THF (100 mL) was added benzyl magnesium chloride (36 mL, 20% wt solution in THF, 43 mmol) slowly at 0° C. After one hour the mixture was warmed to room temperature. After four hours the mixture was cooled to 0° C. and quenched with saturated NH4Cl. The mixture was warmed to room temperature and extracted with ethyl acetate (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated. Flash column chromatography (10% ethyl acetate/hexanes) gave 1-[4-(1,3-dioxolan-2-yl)phenyl]-2-phenylethanone as a pale yellow solid: 1H-NMR (500 MHz, CDCl3): δ8.02 (2H, d, J=8.30 Hz,), 7.57 (2H, d, J=8.30 Hz,), 7.38-7.24 (% H, m), 5.86 (1H, s), 4.29 (2H, s), 4.28-4.09 (4H, m).

reactant | 4-(1,3-dioxolan-2-yl)benzonitrile | 28.54 mmol, 5.0 g | O1C(OCC1)C1=CC=C(C#N)C=C1 | C10H9NO2
reactant | benzyl magnesium chloride | 43 mmol, 36 mL | C(C1=CC=CC=C1)[Mg]Cl
reactant | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-[4-(1,3-dioxolan-2-yl)phenyl]-2-phenylethanone | O1C(OCC1)C1=CC=C(C=C1)C(CC1=CC=CC=C1)=O | C17H16O3
